2199-08-20 11:43:00 Physician Attending Progress Note
Chief Complaint: shortness of breath at rehab, transferred overnight
   for persistent hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   transferred from [**Hospital Unit Name 4**] overnight
   off NIPPV
   Allergies:
   Ketorolac
   Chest tightenin
   Propranolol
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-8-20**] 08:00 AM
   Other medications:
   prednisone 60
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2199-8-20**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 84 (74 - 112) bpm
   BP: 109/57(69) {96/47(61) - 144/97(105)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                    600 mL
                                                                     50 mL
   PO:
                                                                    600 mL
                                                                     50 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                      0 mL
   Urine:
                                                                  1,245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -645 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.43/35/99.[**Numeric Identifier **]/22/0
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes : increased RUL)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   401 K/uL
   113 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   17 mg/dL
   109 mEq/L
   142 mEq/L
   36.1 %
   18.1 K/uL
        [image002.jpg]
                             [**2199-8-19**]  10:11 PM
                             [**2199-8-20**]  05:08 AM
   WBC
   18.1
   Hct
   36.1
   Plt
   401
   Cr
   0.6
   TCO2
   24
   Glucose
   113
   Other labs: PT / PTT / INR:12.3/23.4/1.0, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:4.0 mg/dL
   Imaging: cxr - no infiltrate
   Assessment and Plan
   42 yo F with history of poorly controlled asthma who presents with
   respiratory distress.  History and presentation atypical for asthma.
   Pt diagnosed with asthma in mid-thirties, difficult to control with
   inhaled bronchodilators and inhaled steroids, multiple ED admissions
   and oral prednisone courses over the past few years.  Current
   presentation concerning for increased resp distress, less prominent
   wheeze, increased Aa gradient, eosinophila.  DDx would include
   infectious sources including strongyloides, abpa, atypical
   mycobacteria, pcp pna, viral pna v vascular including PE, parenchymal
   disorders including ILD, less likely cardiogenic.
   1. Respiratory failure:  atypical presentation for asthma exacerbation
   with increased Aa gradient, peripheral eosinophilia
    - will check strongy ab
    - PE protocol CT to evaluate for PE, DIP, occult infection
    - cont alb/atrovent as needed
    - sputum cx
    - combined inhaled [**Last Name (un) **] + inhaled CS to prepare for discharge
    - will likely need outpatient pulmonary f/u including PFTs
    - stool for strongyloides
   2. UTI sx:
    - check UA
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2199-8-19**] 06:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2199-08-21 13:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   getting ativan overnight for withdrawal
   Allergies:
   Ketorolac
   Chest tightenin
   Propranolol
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-8-21**] 07:30 AM
   Other medications:
   advair [**Hospital1 **]
   celexa 20 qday
   pred 60 qday
   trileptal 150 tid
   clonidine 0.1 [**Hospital1 **]
   valium x 10 this am, ativan 3 mg [**8-20**] pm
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-21**] 01:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 105 (66 - 116) bpm
   BP: 101/45(59) {82/45(55) - 141/73(88)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
                  Total In:
                                                                    370 mL
                                                                    480 mL
   PO:
                                                                    370 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                    775 mL
   Urine:
                                                                    600 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : scattered insp/exp)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   385 K/uL
   114 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.4 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   38.7 %
   11.9 K/uL
        [image002.jpg]
                             [**2199-8-19**]  10:11 PM
                             [**2199-8-20**]  05:08 AM
                             [**2199-8-21**]  04:18 AM
   WBC
   18.1
   11.9
   Hct
   36.1
   38.7
   Plt
   401
   385
   Cr
   0.6
   0.6
   TCO2
   24
   Glucose
   113
   114
   Other labs: PT / PTT / INR:12.3/23.4/1.0, Differential-Neuts:75.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:7.0 %, Eos:1.0 %, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   42 yo F history of substance abuse, asthma, presents with respiratory
   failure
   1. respiratory failure: asthma exacerbation v organizing pneumonia v
   inhalation
    - f/u galactomannan, glucan
    - f/u sputum culture
    - cont pred 60 mg qday with plans to taper as she improves
    - cont holding abx given afebrile appearance
    - would consider BAL for gs/cx, eosinophils, cell count
   2. withdrawal: benzo and opiate abuse
    - psychiatry following
    - holding CIWA per psych, giving prn banzos, ativan .5 q 4H
    - cont trileptal and citalopram
   3. full diet
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2199-8-19**] 06:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Ms. [**Known lastname 9101**] with the ICU team and Dr. [**Last Name (STitle) 3012**], whose
   note from today reflects my input.  Treated overnight for withdrawal.
   CT shows some bronchial wall thickening and GGO in a relatively unusual
   pattern.  Remains afebrile and no further episodes of major hypoxemia.
   Assessment and Plan
   42-year-old woman with respiratory distress in the setting of a history
   of asthma and substance abuse.  She has had episodes of severe
   hypoxemia along with wheezing, though these appear to have abated.  The
   hypoxemia seemed to be an unusual presentation for asthma, so we have
   pursued additional testing:
   1) CT excludes PE adequately in this circumstance
   2) CT has clear GGO that may be consistent with infection, COP, or
   other causes
   3) Complete lack of fever makes influenza unlikely
   4) Timing of when she was on steroids (in relationship to her
   eosinophilia) is not completely clear.  The attenuation today argues
   that the report of being on steroids at admission may have been
   inaccurate.
   We will
   - follow up cultures and serologies
   - continue to treat withdrawal (benzodiazepine and opiate)
   - call out to floor
   - ask pulmonary consult team to follow on the floor (?echo with bubble
   to exclude PFO, ?bronch if unimproved)
   Other issues as per Dr. [**Last Name (STitle) 3012**]
s note
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2199-8-21**] 21:23 ------